US05958942
1,2-Dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one
To a suspension of 4.8 g (120 mmol) of sodium hydride (60% dispersion in oil) in 60 ml of DMF was added 10.23 g (40 mmol) of 5-amino-3-ethoxycarbonyl-2-methylimidazo[1,2-a]pyridine-hydrochloride with small portions. The mixture was stirred for 0.5 hour, then for 0.5 hour at 100° C., which was left standing for cooling. To the reaction mixture was added 60 ml of water. The mixture was washed with chloroform, to which was added, while stirring at room temperature, conc. HCl to make the pH of the solution 8. The resulting precipitate was collected by filtration, washed with water and ether, successively to give 5.97 g of the desired compound (86.1%, pale brown solid).

reactant | sodium hydride | 120 mmol, 4.8 g | [H-].[Na+]
reactant | 5-amino-3-ethoxycarbonyl-2-methylimidazo[1,2-a]pyridine-hydrochloride | 40 mmol, 10.23 g | Cl.NC1=CC=CC=2N1C(=C(N2)C)C(=O)OCC
reactant | water | 60 ml | O | H2O
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 1,2-Dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 5.97 g, 86.1% | CC=1N=C2N3C1C(NC3=CC=C2)=O | C9H7N3O
